US07737145B2
To a solution of oxalyl chloride (80.2 μL, 0.93 mmol) in dichloromethane (8 mL) at −78° C., dimethyl sulfoxide (132.2 μL, 1.86 mmol) was added dropwise. After 15 minutes, 4-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)benzenemethanol (300 mg, 0.85 mmol) was added. After 30 minutes, triethylamine (590 μL, 4.23 mmol) was added. The reaction was then allowed to warm to room temperature. Saturated sodium bicarbonate solution was added. The mixture was extracted with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. Flash chromatography gave 122 mg of 4-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)benzaldehyde; 1H NMR (300 MHz, CDCl3) δ 10.00 (s, 1H), 7.85 (d, 2H), 7.40 (d, 2H), 3.01 (m, 2H), 2.41 (m, 2H) ppm.

reactant | oxalyl chloride | 0.93 mmol, 80.2 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 1.86 mmol, 132.2 μL | CS(=O)C | C2H6OS
reactant | 4-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)benzenemethanol | 0.85 mmol, 300 mg | FC(CCC1=CC=C(C=C1)CO)(C(C(C(F)(F)F)(F)F)(F)F)F | C13H11F9O
reactant | triethylamine | 4.23 mmol, 590 μL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 4-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)benzaldehyde | 122 mg | FC(CCC1=CC=C(C=O)C=C1)(C(C(C(F)(F)F)(F)F)(F)F)F | C13H9F9O
